US09034880B2
To a solution of 8-tert-butyl-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole (200 mg, 0.82 mmol) in NMP (3.0 ml), powdered KOH (462 mg, 8.23 mmol) was added and stirred for 10 min at 25 deg C. After which 2-(trifluoromethyl)-5-vinylpyridine (286 mg, 1.65 mmol) was added slowly to the above solution and stirred for 14 h at 25 deg C. After completion of the reaction (monitored by LCMS), water (5 mL) was added to the crude and extracted with the ethylacetate. The organic layer was dried and concentrated. The resulting crude was purified by reverse-phase chromatography (C-18, 500 mm×50 mm, Mobile Phase A=0.05% TFA in water, B=0.05% TFA in acetonitrile, gradient: 10% B to 80% B in 30 min, injection vol. 5 mL) to obtain 30 mg of 8-tert-butyl-2,3,4,5-tetrahydro-2-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-1H-pyrido[4,3-b]indole as TFA salt

reactant | 8-tert-butyl-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole | 0.82 mmol, 200 mg | C(C)(C)(C)C1=CC=2C3=C(NC2C=C1)CCN(C3)C | C16H22N2
reactant | KOH | 8.23 mmol, 462 mg | [OH-].[K+]
reactant | 2-(trifluoromethyl)-5-vinylpyridine | 1.65 mmol, 286 mg | FC(C1=NC=C(C=C1)C=C)(F)F | C8H6F3N
reactant | water | 5 mL | O | H2O
solvent | NMP | 3.0 ml | CN1CCCC1=O | C5H9NO
product | 8-tert-butyl-2,3,4,5-tetrahydro-2-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-1H-pyrido[4,3-b]indole | 30 mg | C(C)(C)(C)C1=CC=2C3=C(N(C2C=C1)CCC=1C=NC(=CC1)C)CCN(C3)C | C24H31N3
